US07902190B2
Preparation of 3-(3-1H-indol-3-yl-acryloylamino)-N-(3-morpholin-4-yl-propyl)-benzamide
In 5.0 mL of dimethylformamide were dissolved 3-(3-1H-indol-3-yl-acryloylamino)-benzoic acid (150 mg, 0.49 mmol), prepared in Example 3, and 3-morpholin-4-yl-propylamine (0.11 mL, 0.73 mmol), followed by the addition of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate (277.6 mg, 0.73 mmol) and N,N-diisopropylethylamine (0.13 ml, 0.73 mmol). The resulting solution was stirred at room temperature and mixed with ethyl acetate and an aqueous sodium salt solution. The organic layer was dried over anhydrous magnesium sulfate. After the filtration and concentration of the residue, the concentrate was purified using Prep-TLC (methylene chloride:methanol=10:1) to produce the subject compound as a yellow solid (8) (92.6 mg, 44%).

reactant | 3-(3-1H-indol-3-yl-acryloylamino)-benzoic acid | 0.49 mmol, 150 mg | N1C=C(C2=CC=CC=C12)C=CC(=O)NC=1C=C(C(=O)O)C=CC1 | C18H14N2O3
reactant | 3-morpholin-4-yl-propylamine | 0.73 mmol, 0.11 mL | N1(CCOCC1)CCCN | C7H16N2O
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate | 0.73 mmol, 277.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.73 mmol, 0.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium | [Na] | Na
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-1H-indol-3-yl-acryloylamino)-N-(3-morpholin-4-yl-propyl)-benzamide | 92.6 mg, 44% | N1C=C(C2=CC=CC=C12)C=CC(=O)NC=1C=C(C(=O)NCCCN2CCOCC2)C=CC1 | C25H28N4O3
